US07812167B2
The title C compound, 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide (0.58 mmol, 220 mg) is dissolved in 15 mL of THF and cooled to −78° C. LHMDS (1.2 mmol, 1.2 mL of 1.0 M solution) is added and the mixture is stirred to 1 h at −78° C. Benzyl bromide (0.6 mmol, 103 mg) is added and the mixture stirred at −78° C. for 2 h further. The reaction mixture is quenched with aqueous saturated ammonium chloride, the solvent is evaporated and the residue is partitioned between EtOAc and brine. The organic solution is dried and evaporated to an oil. Chromatography on silica (eluent: 35% EtOAc in hexanes) affords 3-cyclopentyl-2-[4-(2-phenyl-ethanesulfonyl)-phenyl]-N-thiazol-2-yl-propionamide: 1H NMR δ 11.8 (s, 1H), 7.86 (d, J=8, 2H), 7.55 (m, 3H), 7.05-7.32 (m, 6H) 3.8 (t, J=7.5, 1H), 3.33 (m, 2H), 3.05 (m, 2H), 2.29 (m, 1H), 1.0-1.9 (m, 8H); e/z (ES) 469 (M+1, 100%).

reactant | 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide | 0.58 mmol, 220 mg | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)S(=O)(=O)C | C18H22N2O3S2
reactant | LHMDS | 1.2 mmol, 1.0 M, 1.2 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Benzyl bromide | 0.6 mmol, 103 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-cyclopentyl-2-[4-(2-phenyl-ethanesulfonyl)-phenyl]-N-thiazol-2-yl-propionamide | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)S(=O)(=O)CCC1=CC=CC=C1 | C25H28N2O3S2
